### PR TITLE
feat: redefine HashSet.union and add lemmas

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds adds union operation on `DHashMap`/`HashMap`/`HashSet` and their raw variants and provides lemmas about union operations.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-09-29` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-07 18:59:23)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+    m₂.contains k → (m₁.union m₂).contains k := by
+  simp_to_model [contains, union] using List.contains_insertList_of_right
+
+@[simp]
+theorem contains_union [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF)
+    (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k = (m₁.contains k || m₂.contains k) := by
+  simp_to_model [contains, union] using List.containsKey_insertList_disj_of_containsKey
+
+@[simp]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Does this actually fire as a `simp` lemma or is it always superseded by the lemma above?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+theorem contains_union_iff [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF)
+    (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k ↔ m₁.contains k ∨ m₂.contains k := by
+  simp_to_model [union, contains] using List.contains_insertList_iff
+
+theorem contains_of_contains_union_of_contains_right_eq_false [EquivBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Could you check whether there is any precedent in core or mathlib whether we usually call lemmas like this `..._contains_right_eq_false` or `...contains_eq_false_right`?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 3]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+    [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k → m₂.contains k = false → m₁.contains k := by
+  simp_to_model [union, contains] using List.contains_of_contains_insertList_of_contains_right_eq_false
+
+theorem contains_of_contains_union_of_contains_left_eq_false [EquivBEq α]
+    [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k → m₁.contains k = false → m₂.contains k := by
+  simp_to_model [union, contains] using List.contains_of_contains_insertList_of_contains_left_eq_false
+
+theorem get?_union_of_contains_right_eq_false [LawfulBEq α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: The two `get?_union_of_...` lemmas you have are good, but we'll also want a `get?_union` stated in terms of `Option.or` for `grind` and friends to apply.

Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Also note that you are still missing lemmas about `Const.get?`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 4]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+  . apply List.Perm.trans
+    . apply insertList_insert_right_equiv_union_insert
+      any_goals wf_trivial
+    . apply insertEntry_of_perm
+      . apply List.DistinctKeys.insertList
+        . wf_trivial
+      . apply List.Perm.symm
+        . apply toListModel_union (by wf_trivial) (by wf_trivial)
+
+theorem getKey?_union_of_contains_right [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: This seems to be misnamed, it should just be called `getKey?_union`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 5]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+  simp_to_model [union, contains, getKey] using List.getKey_insertList_of_contains_right
+
+theorem getKey_union_of_contains_right_lawful
+    [LawfulBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
+    {k : α} (mem : m₂.contains k) :
+    (m₁.union m₂).getKey k (contains_union_of_right h₁ h₂ mem) = k := by
+  simp_to_model [union, contains, getKey] using List.getKey_insertList_of_contains_right_lawful
+  revert mem
+  simp_to_model [contains]
+  simp only [imp_self]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I think it's a bit nicer to only use `simp_to_model` once here:
```suggestion
  revert mem
  simp_to_model [union, contains, getKey]
  intro mem
  exact List.getKey_insertSmallerList_of_contains_right_lawful mem
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 6]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+  apply List.getKey?_insertList_of_mem_of_not_mem
+  . exact not_mem
+  . exact mem
+
+theorem getKey_union_of_contains_left_of_contains_right_eq_false
+    [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
+    {k : α} (mem : m₁.contains k) :
+    (∃ (mem₂ : m₂.contains k), (m₁.union m₂).getKey k (contains_union_of_left h₁ h₂ mem) = m₂.getKey k mem₂)
+    ∨ (m₁.union m₂).getKey k (contains_union_of_left h₁ h₂ mem) = m₁.getKey k mem
+    := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Our style guide wants this indentation:
```suggestion
    (∃ (mem₂ : m₂.contains k), (m₁.union m₂).getKey k (contains_union_of_left h₁ h₂ mem) = m₂.getKey k mem₂) ∨ 
      (m₁.union m₂).getKey k (contains_union_of_left h₁ h₂ mem) = m₁.getKey k mem := by
```
Note that the `∨` is at the end of the line, not at the beginning, and similar for the `:= by`.

File: src/Std/Data/Internal/List/Associative.lean [hunk 7]
```diff
@@ -2999,6 +3005,469 @@ theorem isEmpty_insertList [BEq α]
...
+  intro mem
+  simp only [getKey_eq]
+
+theorem getKeyD_insertList_of_mem_left_of_not_mem_right [BEq α] [EquivBEq α]
+    {l toInsert : List ((a : α) × β a)} {k fallback : α}
+    (distinct_l : DistinctKeys l)
+    (distinct_toInsert : DistinctKeys toInsert) :
+    getKeyD k (insertList l toInsert) fallback = getKeyD k toInsert fallback ∨
+    getKeyD k (insertList l toInsert) fallback = getKeyD k l fallback := by
+    apply Or.elim <| Classical.em <| containsKey k toInsert
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: Style: we declaration bodies by two spaces, not four.

File: src/Std/Data/Internal/List/Associative.lean [hunk 8]
```diff
@@ -2999,6 +3005,469 @@ theorem isEmpty_insertList [BEq α]
...
+    refine ⟨toInsert_contains_k, ?_⟩
+    apply getKey_insertList_of_contains_right
+    . exact distinct_l
+    . exact distinct_toInsert
+  case right =>
+    intro toInsert_not_contains_k
+    apply Or.inr
+    suffices some (getKey k (insertList l toInsert) m) = some (getKey k l mem) from by
+      injection this
+    simp only [←getKey?_eq_some_getKey]
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: Style: we put a space after `←`:
```suggestion
    simp only [← getKey?_eq_some_getKey]
```

File: src/Std/Data/Internal/List/Associative.lean [hunk 9]
```diff
@@ -2999,6 +3005,469 @@ theorem isEmpty_insertList [BEq α]
...
+        rwa [← containsKey_eq_isSome_getEntry?, ← containsKey_congr hk]
+      · simp [hk]
+
+theorem insertList_perm_insertSmallerList [BEq α] [EquivBEq α]
+  {l toInsert : List ((a : α) × β a)}
+  (distinct_l : DistinctKeys l)
+  (distinct_toInsert : DistinctKeys toInsert) :
+  (insertList l toInsert).Perm
+  (insertSmallerList l toInsert) := by
+    unfold insertSmallerList
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: Style: here you have the indentation the wrong way around: the statement should be indented four spaces, while the body should be indented two spaces.

File: src/Std/Data/Internal/List/Associative.lean [hunk 10]
```diff
@@ -4880,6 +5349,18 @@ theorem getValueCast_eq_get_getValueCast? [BEq α] [LawfulBEq α] {a : α} {l :
     getValueCast a l h = (getValueCast? a l).get (containsKey_eq_isSome_getValueCast? (a := a) ▸ h) := by
   simp [getValueCast?_eq_some_getValueCast h]
 
+theorem getValue_insertList_of_contains_eq_false [BEq α] [PartialEquivBEq α] [LawfulBEq α]
+    {l toInsert : List ((a : α) × β a)} {k : α}
+    (not_contains : containsKey k toInsert = false)
+    {p1 : containsKey k (insertList l toInsert) = true}
+    {p2 : containsKey k l = true}:
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]:
```suggestion
    {p2 : containsKey k l = true} :
```

File: src/Std/Data/Internal/List/Associative.lean [hunk 11]
```diff
@@ -4880,6 +5349,18 @@ theorem getValueCast_eq_get_getValueCast? [BEq α] [LawfulBEq α] {a : α} {l :
...
+    getValueCast k (insertList l toInsert) p1  = getValueCast k l p2  := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]:
```suggestion
    getValueCast k (insertList l toInsert) p1 = getValueCast k l p2 := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 12]
```diff
@@ -2684,6 +2685,279 @@ end Const
...
+
+theorem getKey!_union_of_mem_right [EquivBEq α] [LawfulHashable α] [Inhabited α] (h₁ : m₁.1.WF)
+    (h₂ : m₂.1.WF) {k : α} (mem : m₂.contains k) :
+    (m₁.union m₂).getKey! k = m₂.getKey! k := by
+  simp_to_model [contains, getKey!, union] using List.getKey!_insertList_of_mem_right
+  revert mem
+  simp_to_model [contains]
+  simp only [imp_self]
+
+theorem getKey!_union_of_mem_right_lawful [LawfulBEq α] [LawfulHashable α] [Inhabited α] (h₁ : m₁.1.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: As discussed, let's drop the `_lawful` variants for now.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 2 above)
Comment (wkrozowski) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Quick look at Loogle shows that such names do not appear at all. Do you have a suggestion of a better naming scheme?

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: We have, for example, `Nat.eq_zero_of_gcd_eq_zero_right`, which suggests that this lemma should be called `contains_of_contains_union_eq_false_right`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 1 above)
Comment (wkrozowski) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Oh, I didn't notice the lemma above being a simp lemma too. Do we have a preference which one should we use? I guess the upper one, right?

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Yes, I think so.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 13]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+    (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k = (m₁.contains k || m₂.contains k) := by
+  simp_to_model [contains, union] using List.containsKey_insertList_disj_of_containsKey
+
+theorem contains_union_iff [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF)
+    (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k ↔ m₁.contains k ∨ m₂.contains k := by
+  simp_to_model [union, contains] using List.contains_insertList_iff
+
+theorem contains_of_contains_union_eq_false_right [EquivBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Oh, I'm sorry, I made a mistake in my last comment where I asked you to change this name. I meant `contains_of_contains_union_of_contains_eq_false_right`, not `contains_of_contains_union_eq_false_right`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 14]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+    [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k → m₂.contains k = false → m₁.contains k := by
+  simp_to_model [union, contains] using List.contains_of_contains_insertList_eq_false_right
+
+theorem contains_of_contains_union_eq_false_left [EquivBEq α]
+    [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k → m₁.contains k = false → m₂.contains k := by
+  simp_to_model [union, contains] using List.contains_of_contains_insertList_eq_false_left
+
+theorem get?_union_of_contains_right_eq_false [LawfulBEq α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: By the same logic as for `contains`, this should be called `get?_union_of_contains_eq_false_right`.

Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Also, would you mind reordering the lemmas so that they are grouped by the query operation, i.e., all of the `get?` lemmas grouped together and so on?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 15]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+    (m₁.union (m₂.insert p.fst p.snd)).1.Equiv ((m₁.union m₂).insert p.fst p.snd).1 := by
+  simp_to_model [union, insert]
+  apply List.Perm.trans
+  . apply insertList_perm_of_perm_second
+    simp_to_model [insert]
+    . apply insertEntry_of_perm
+      . wf_trivial
+      . apply List.Perm.refl
+    . constructor
+      rw [←Raw.keys_eq_keys_toListModel]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]:
```suggestion
      rw [← Raw.keys_eq_keys_toListModel]
```
Also elsewhere

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 14 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: And there are more lemmas below where the same applies

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 16]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+  simp_to_model [union, contains, getKey] using List.getKey_insertList_of_contains_right
+
+theorem getKey!_union_of_contains_right_eq_false [Inhabited α]
+    [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α}
+    (h' : m₂.contains k = false) :
+    (m₁.union m₂).getKey! k = m₁.getKey! k := by
+  revert h'
+  simp_to_model [contains, union, getKey!] using List.getKey!_insertList_of_contains_right_eq_false
+
+theorem getKey!_union_of_mem_right [EquivBEq α] [LawfulHashable α] [Inhabited α] (h₁ : m₁.1.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: This should be called `getKey!_union_of_contains_right`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 17]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+  apply List.getKeyD_insertList_of_mem_right
+  all_goals wf_trivial
+
+theorem get?_union_of_contains_left_eq_false [LawfulBEq α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
+    {k : α} (contains_eq_false : m₁.contains k = false) :
+    (m₁.union m₂).get? k = m₂.get? k := by
+  revert contains_eq_false
+  simp_to_model [union, contains, get?] using getValueCast?_insertList_of_contains_left_eq_false
+
+theorem union_get? [LawfulBEq α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: `get?_union`

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 18]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+    (m₁.union m₂).1.size ≤ m₁.1.size + m₂.1.size := by
+  simp_to_model [union, size] using List.length_insertList_le
+
+@[simp]
+theorem isEmpty_union [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) :
+    (m₁.union m₂).1.isEmpty = (m₁.1.isEmpty && m₂.1.isEmpty) := by
+  simp_to_model [isEmpty, union] using List.isEmpty_insertList
+end Union
+
+namespace Const
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:2977]: Missing: `Const.getD`, `Const.get!`

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 19]
```diff
@@ -2684,6 +2685,251 @@ end Const
...
+
+variable {β : Type v} {m₁ m₂ : Raw₀ α (fun _ => β)}
+
+theorem get?_union_of_contains_right_eq_false [LawfulBEq α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: This and all other lemmas about `Const.get*` should hopefully now be true if we only assume `EquivBEq` and `LawfulHashable`. That is the point of having these variants after all.

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 20]
```diff
@@ -1861,6 +1861,234 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α] (h : m.W
...
+section Union
+variable {β : α → Type v}
+
+variable (m₁ m₂ : Raw α β)
+
+variable {m₁ m₂}
+
+theorem contains_union_of_left  [EquivBEq α] [LawfulHashable α] (h₁ : m₁.WF)
+    (h₂ : m₂.WF) {k : α} :
+    m₁.contains k → (m₁.union m₂).contains k := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean]: For all of the user-facing variants of hash maps, let's introduce a `Union` instance, introduce a `simp` lemma that rewrites `union` to `∪` and state all lemmas in terms of `∪`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 21]
```diff
@@ -2684,6 +2685,382 @@ end Const
...
+    (m₁.union m₂).contains k → m₂.contains k = false → m₁.contains k := by
+  simp_to_model [union, contains] using List.contains_of_contains_insertList_of_contains_eq_false_right
+
+theorem contains_of_contains_union_of_contains_eq_false_left [EquivBEq α]
+    [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k → m₁.contains k = false → m₂.contains k := by
+  simp_to_model [union, contains] using List.contains_of_contains_insertList_of_contains_eq_false_left
+
+/- Equiv -/
+theorem union_insert_right_equiv_union_insert [EquivBEq α] [LawfulHashable α] {p : (a : α) × β a}
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: This one should be called `union_insert_right_equiv_insert_union` or `union_insert_equiv_insert_union`.

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 22]
```diff
@@ -1861,6 +1861,392 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α] (h : m.W
...
 
+section Union
+variable {β : α → Type v}
+
+variable (m₁ m₂ : Raw α β)
+
+variable {m₁ m₂}
+
+@[simp]
+theorem union_simp : m₁.union m₂ = m₁ ∪ m₂ := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean]: We usually call this lemma `union_eq` or `union_eq_union`.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 23]
```diff
@@ -1766,6 +1766,301 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+  @Raw₀.contains_union_of_right _ _ _ _ ⟨m₁.1, _⟩ ⟨m₂.1, _⟩ _ _ m₁.2 m₂.2 k
+
+@[simp]
+theorem mem_union_iff [EquivBEq α] [LawfulHashable α] {k : α} :
+    k ∈ m₁ ∪ m₂ ↔ k ∈ m₁ ∨ k ∈ m₂ :=
+  @Raw₀.contains_union_iff _ _ _ _ ⟨m₁.1, _⟩ ⟨m₂.1, _⟩ _ _ m₁.2 m₂.2 k
+
+theorem mem_of_mem_union_of_mem_eq_false_right [EquivBEq α]
+    [LawfulHashable α] {k : α} :
+    k ∈ m₁ ∪ m₂→ ¬k ∈ m₂ → k ∈ m₁ := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]:
```suggestion
    k ∈ m₁ ∪ m₂ → ¬k ∈ m₂ → k ∈ m₁ := by
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 24]
```diff
@@ -1766,6 +1766,301 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+  intro h₁ h₂
+  apply @Raw₀.contains_of_contains_union_of_contains_eq_false_right _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ m₁.2 m₂.2 k h₁
+  . unfold Membership.mem at h₂
+    unfold instMembership at h₂
+    simp only at h₂
+    have h₂ : m₂.contains k = false := by simp only [h₂]
+    exact h₂
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: How about
```suggestion
  simpa only [mem_iff_contains, Bool.not_eq_true] using
    contains_of_contains_union_of_contains_eq_false_right
```

File: src/Std/Data/DHashMap/Raw.lean [hunk 25]
```diff
@@ -713,6 +707,15 @@ theorem WF.Const.unitOfList [BEq α] [Hashable α] {l : List α} :
...
 
+theorem WF.union₀ [BEq α] [Hashable α] {m₁ m₂ : Raw α β} (h₁ : m₁.WF) (h₂ : m₂.WF) : (Raw₀.union ⟨m₁, h₁.size_buckets_pos⟩ ⟨m₂, h₂.size_buckets_pos⟩).val.WF := by
+  simp only [Raw₀.union]
+  split
+  . exact (Raw₀.insertManyIfNew ⟨m₂, h₂.size_buckets_pos⟩ m₁).2 _ WF.insertIfNew₀ h₂
+  . exact (Raw₀.insertMany ⟨m₁, h₁.size_buckets_pos⟩ m₂).2 _ WF.insert₀ h₁
+
+theorem WF.union [BEq α] [Hashable α] {m₁ m₂ : Raw α β} (h₁ : m₁.WF) (h₂ : m₂.WF) : (m₁.union m₂ : Raw α β).WF := by
+  simp [Std.DHashMap.Raw.union, h₁.size_buckets_pos, h₂.size_buckets_pos]
+  exact WF.union₀ h₁ h₂
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean:724]:
```suggestion
  exact WF.union₀ h₁ h₂
  
```

File: src/Std/Data/DHashMap/Basic.lean [hunk 26]
```diff
@@ -311,6 +311,13 @@ This function ensures that the value is used linearly.
     Array α :=
   m.1.keysArray
 
+/-- Computes the union of the given hash maps, inserting smaller hash map into a bigger hash map. In the case of clashes of keys, entries from the left argument, are replaced with entries from the right argument. -/
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Basic.lean]: Minor docstring nitpicking:
```suggestion
/--
Computes the union of the given hash maps. If a key appears in both maps, the entry contains in
the second argument will appear in the result.

This function always merges the smaller map into the larger map, so the expected runtime is
`O(min(m₁.size, m₂.size))`.
-/
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 27]
```diff
@@ -1766,6 +1766,301 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+    (m₁ ∪ (m₂.insert p.fst p.snd)) ~m ((m₁ ∪ m₂).insert p.fst p.snd) :=
+  ⟨@Raw₀.union_insert_right_equiv_insert_union _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ p m₁.2 m₂.2⟩
+
+/- get? -/
+theorem get?_union [LawfulBEq α] {k : α} :
+    (m₁ ∪ m₂).get? k = (m₂.get? k).or (m₁.get? k) :=
+  @Raw₀.get?_union _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ m₁.2 m₂.2 k
+
+theorem get?_union_of_contains_eq_false_left [LawfulBEq α]
+    {k : α} (contains_eq_false : m₁.contains k = false) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: Sorry for bringing this up so late; I forgot that a few months ago we changed the `simp` normal form to be `∈` instead of `contains` (see the `simp` lemma `contains_iff_mem`). So in lemmas like this we should state the hypotheses using `∈`, not `contains`.

Comment (wkrozowski) [reply src/Std/Data/DHashMap/Lemmas.lean]: @TwoFX I have resolved this in a latest commit, please see if this looks good to you

File: src/Std/Data/DHashMap/Raw.lean [hunk 28]
```diff
@@ -469,6 +456,19 @@ only those mappings where the function returns `some` value.
 @[inline] def keysArray (m : Raw α β) : Array α :=
   m.fold (fun acc k _ => acc.push k) (.emptyWithCapacity m.size)
 
+/-- Computes the union of the given hash maps, inserting smaller hash map into a bigger hash map. In the case of clashes of keys, entries from the left argument, are replaced with entries from the right argument. -/
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean]: Please also change the docstring here and elsewhere.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 29]
```diff
@@ -64,6 +64,10 @@ theorem mem_iff_contains {a : α} : a ∈ m ↔ m.contains a :=
 theorem contains_iff_mem {a : α} : m.contains a ↔ a ∈ m :=
   Iff.rfl
 
+theorem contains_eq_false_iff_not_mem {k : α} : m.contains k = false ↔ ¬k ∈ m := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:68]: Let's add a comment here that this will be become a `simp` lemma at the bottom of the file.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 30]
```diff
@@ -1766,6 +1770,315 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+  @Raw₀.contains_union_of_right _ _ _ _ ⟨m₁.1, _⟩ ⟨m₂.1, _⟩ _ _ m₁.2 m₂.2 k
+
+theorem mem_of_mem_union_of_mem_eq_false_right [EquivBEq α]
+    [LawfulHashable α] {k : α} :
+    k ∈ m₁ ∪ m₂ → ¬k ∈ m₂ → k ∈ m₁ := by
+  intro h₁ h₂
+  rw [← contains_eq_false_iff_not_mem] at h₂
+  exact @Raw₀.contains_of_contains_union_of_contains_eq_false_right _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ m₁.2 m₂.2 k h₁ h₂
+
+theorem mem_of_mem_union_of_mem_eq_false_left [EquivBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: The correct name is `mem_of_mem_union_of_not_mem_left`. There are more example in other files.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 31]
```diff
@@ -1766,6 +1770,315 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+theorem union_insert_right_equiv_union_insert [EquivBEq α] [LawfulHashable α] {p : (a : α) × β a} :
+    (m₁ ∪ (m₂.insert p.fst p.snd)) ~m ((m₁ ∪ m₂).insert p.fst p.snd) :=
+  ⟨@Raw₀.union_insert_right_equiv_insert_union _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ p m₁.2 m₂.2⟩
+
+/- get? -/
+theorem get?_union [LawfulBEq α] {k : α} :
+    (m₁ ∪ m₂).get? k = (m₂.get? k).or (m₁.get? k) :=
+  @Raw₀.get?_union _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ m₁.2 m₂.2 k
+
+theorem get?_union_of_contains_eq_false_left [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: `get?_union_of_not_mem_left` and the hypothesis should also be renamed. There are more examples in other files.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 32]
```diff
@@ -1766,6 +1770,315 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+
+theorem getKey!_union_of_contains_eq_false_right [Inhabited α]
+    [EquivBEq α] [LawfulHashable α] {k : α}
+    (h' : ¬k ∈ m₂) :
+    (m₁ ∪ m₂).getKey! k = m₁.getKey! k := by
+  rw [← contains_eq_false_iff_not_mem] at h'
+  exact @Raw₀.getKey!_union_of_contains_eq_false_right _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ _ m₁.2 m₂.2 k h'
+
+/- size -/
+theorem size_union [EquivBEq α] [LawfulHashable α] :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: Once we get an intersection operation, we will probably have the lemma `(m₁ ∪ m₂).size = m₁.size + m₂.size - (m₁ ∩ m₂).size` which also has a plausible claim for the name `size_union`. What do you think?

Comment (wkrozowski) [reply src/Std/Data/DHashMap/Lemmas.lean]: Renamed that to `size_union_of_not_mem`

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 30 above)
Comment (wkrozowski) [reply src/Std/Data/DHashMap/Lemmas.lean]: Done! Renamed it everywhere, where needed!

File: src/Std/Data/HashMap/Lemmas.lean [hunk 33]
```diff
@@ -1305,6 +1309,203 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+
+theorem getKey!_union_of_not_mem_right [Inhabited α]
+    [EquivBEq α] [LawfulHashable α] {k : α}
+    (mem : ¬k ∈ m₂) :
+    (m₁ ∪ m₂).getKey! k = m₁.getKey! k :=
+  @DHashMap.getKey!_union_of_not_mem_right _ _ _ _ m₁.inner m₂.inner _ _ _  k mem
+
+/- size -/
+theorem size_union_of_not_mem [EquivBEq α] [LawfulHashable α] :
+    (∀ (a : α), m₁.contains a → m₂.contains a = false) →
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean]: The `contains` should be `\in` here.

File: src/Std/Data/HashMap/Raw.lean [hunk 34]
```diff
@@ -228,6 +228,12 @@ instance {m : Type w → Type w'} : ForM m (Raw α β) (α × β) where
 instance {m : Type w → Type w'} : ForIn m (Raw α β) (α × β) where
   forIn m init f := m.forIn (fun a b acc => f (a, b) acc) init
 
+/-- Computes the union of the given hash maps, inserting smaller hash map into a bigger hash map. In the case of clashes of keys, entries from the left argument, are replaced with entries from the right argument. -/
+@[inline] def union [BEq α] [Hashable α] (m₁ m₂ : Raw α β) : Raw α β :=
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Raw.lean:232]: At the bottom of this file there should be a `WF.union` lemma. Same for `HashSet.Raw`.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 35]
```diff
@@ -1305,6 +1309,203 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+theorem union_insert_right_equiv_union_insert [EquivBEq α] [LawfulHashable α] {p : α × β} :
+    (m₁ ∪ (m₂.insert p.fst p.snd)) ~m ((m₁ ∪ m₂).insert p.fst p.snd) :=
+  ⟨@DHashMap.union_insert_right_equiv_union_insert _ _ _ _ m₁.inner m₂.inner _ _ ⟨p.fst, p.snd⟩⟩
+
+/- get? -/
+theorem get?_union [LawfulBEq α] {k : α} :
+    (m₁ ∪ m₂).get? k = (m₂.get? k).or (m₁.get? k) :=
+  @DHashMap.Const.get?_union _ _ _ _ m₁.inner m₂.inner _ _ k
+
+
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean]:
```suggestion
```

File: src/Std/Data/HashMap/Lemmas.lean [hunk 36]
```diff
@@ -1305,6 +1309,203 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+    k ∈ m₁ ∪ m₂ → ¬k ∈ m₁ → k ∈ m₂ :=
+  @DHashMap.mem_of_mem_union_of_not_mem_left _ _ _ _ m₁.inner m₂.inner _ _  k
+
+/- Equiv -/
+theorem union_insert_right_equiv_union_insert [EquivBEq α] [LawfulHashable α] {p : α × β} :
+    (m₁ ∪ (m₂.insert p.fst p.snd)) ~m ((m₁ ∪ m₂).insert p.fst p.snd) :=
+  ⟨@DHashMap.union_insert_right_equiv_union_insert _ _ _ _ m₁.inner m₂.inner _ _ ⟨p.fst, p.snd⟩⟩
+
+/- get? -/
+theorem get?_union [LawfulBEq α] {k : α} :
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean]: It should be possible to relax all of the lemmas about the `get` variants to `EquivBEq`+`LawfulHashable`.

**Comment by wkrozowski** [comment]
@TwoFX I have resolved your last round of comments.
